US07820683B2
(2R)—N-(2-hydroxyethyl)-2-[(4-{[1-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide
Using the same procedure as in Example 26, methyl (2R)-2-[(4-{[1-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (210 mg, 0.46 mmol) was reacted with ethanolamine (0.17 ml, 2.7 mmol) to give the title compound as a solid (185 mg, 83%), except that the mixture was heated at 65° C. for 2 hours. NMR Spectrum 1.65 (d, 3H), 3.21-3.25 (m, 2H), 3.42-3.46 (m, 2H), 4.75 (t, 1H), 5.23 (q, 1H), 6.04 (s, 2H), 7.02 (d, 1H), 7.37 (d, 1H), 7.66 (s, 1H), 7.73 (t, 1H), 7.77-7.79 (m, 3H) 8.21 (s, 1H), 8.48 (m, 1H), 8.54 (s, 1H), 8.57 (s, 1H), 10.75 (br s, 1H); Mass spectrum MH+ 490.

reactant | methyl (2R)-2-[(4-{[1-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 0.46 mmol, 210 mg | S1C(=NC=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)O[C@@H](C(=O)OC)C | C23H20N6O3S
reactant | ethanolamine | 2.7 mmol, 0.17 ml | C(O)CN | C2H7NO
product | (2R)—N-(2-hydroxyethyl)-2-[(4-{[1-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide | 185 mg, 83% | OCCNC([C@@H](C)OC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC=1SC=CN1)=O | C24H23N7O3S
